US07309718B2
(c) 3-Bromo-9-fluoro-10,11-dihydro-5H-dibenzo[a,d]-cyclohepten-5-one
To 25.8 g (80 mmol) of 2-[2-(4-bromophenyl)ethyl]-3-fluorobenzoic acid was added 550 g of polyphosphoric acid, and the mixture was stirred at 170° C. for 3 hours. After cooling the mixture to 80° C. by allowing to stand, water was added to the mixture and the resulting mixture was cooled to room temperature under stirring by allowing to stand.

reactant | 2-[2-(4-bromophenyl)ethyl]-3-fluorobenzoic acid | 80 mmol, 25.8 g | BrC1=CC=C(C=C1)CCC1=C(C(=O)O)C=CC=C1F | C15H12BrFO2
solvent | water | O | H2O
product | 3-Bromo-9-fluoro-10,11-dihydro-5H-dibenzo[a,d]-cyclohepten-5-one | BrC=1C=CC2=C(C(C3=C(CC2)C(=CC=C3)F)=O)C1 | C15H10BrFO
